US08865911B2
1-Bromo-3-fluoro-5-(methoxymethyl)benzene
NaH (60% dispersion in mineral oil, 245 mg, 6.12 mmol) was added to a solution of (3-bromo-5-fluorophenyl)methanol (1.195 g, 5.83 mmol) in 2-Me THF (20 mL). After gas evolution had ceased, MeI (0.455 mL, 7.29 mmol) was added and the resulting mixture was stirred at r.t. for 16 h. Another portion of NaH (50 mg, 2.1 mmol) and MeI (0.10 mL, 1.6 mmol) were added and the mixture was heated to 60° C. for 2 h. The cooled mixture was diluted with EtOAc, washed with water, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography on silica (gradient of 0-15% EtOAc in heptane) to give 0.810 g (63% yield) of the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 3.30 (s, 3 H), 4.38-4.46 (m, 2 H), 7.18 (m, 1 H), 7.37 (s, 1 H), 7.44-7.50 (m, 1 H); MS (EI) m/z 218 M|.

reactant | NaH | 6.12 mmol, 245 mg | [H-].[Na+]
reactant | (3-bromo-5-fluorophenyl)methanol | 5.83 mmol, 1.195 g | BrC=1C=C(C=C(C1)F)CO | C7H6BrFO
reactant | MeI | 7.29 mmol, 0.455 mL | CI | CH3I
reactant | NaH | 2.1 mmol, 50 mg | [H-].[Na+]
reactant | MeI | 1.6 mmol, 0.10 mL | CI | CH3I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Bromo-3-fluoro-5-(methoxymethyl)benzene | 0.810 g, 63% yield | BrC1=CC(=CC(=C1)COC)F | C8H8BrFO
